US04456772
93 g (0.5 mol) of 4-chloro-3-nitrobenzaldehyde and 58 g (1 mol) of potassium fluoride are suspended in 250 mol of dimethylformamide. The reaction mixture contains 0.02% of H2O. The mixture is stirred for one hour at 160° C. and the dimethylformamide is evaporated off in vacuo. The residue is cooled and stirred with 200 ml of water, the mixture is extracted with methylene chloride and the organic phase is dried. After the methylene chloride has been evaporated off, 83 g of 4-fluoro-3-nitrobenzaldehyde with a content of 90.2% are obtained.

reactant | 4-chloro-3-nitrobenzaldehyde | 0.5 mol, 93 g | ClC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C7H4ClNO3
reactant | potassium fluoride | 1 mol, 58 g | [F-].[K+]
reactant | dimethylformamide | 250 mol | CN(C=O)C | C3H7NO
solvent | H2O | O | H2O
product | 4-fluoro-3-nitrobenzaldehyde | 83 g, Yield: 88% | FC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C7H4FNO3
